US08334236B2
3.83 g (12.3 mmol) of 1-(2-methoxybenzyl)-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylic acid was dissolved in dichloromethane (100 mL), and 7.5 mL (89 mmol) of oxalyl chloride was added thereto. One droplet of N,N-dimethylformamide was added to the above mixture, and the resulting mixture was stirred for one hour at 40° C. The reaction solution was concentrated under reduced pressure, and thus 1-(2-methoxybenzyl)-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylic acid chloride was obtained. The acid chloride thus obtained was dissolved in dichloromethane (100 mL), and this solution was added to a dichloromethane (100 mL) solution of 1.52 g (13.6 mmol) of 1,3-cyclohexanedione and 2.11 mL (14.8 mmol) of triethylamine under ice cooling. The mixture was stirred for 2 hours at room temperature. The reaction mixture was poured into an aqueous solution of sodium hydrogen carbonate, and the mixture was extracted with dichloromethane. The organic phase was dried and concentrated. The residue was washed with diisopropyl ether, and thus 4.82 g of the title compound was obtained as a light yellow solid (yield: 97%).

reactant | 1-(2-methoxybenzyl)-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylic acid | 12.3 mmol, 3.83 g | COC1=C(CN2C(C(=CC3=CC=CN=C23)C(=O)O)=O)C=CC=C1 | C17H14N2O4
reactant | oxalyl chloride | 89 mmol, 7.5 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 1-(2-methoxybenzyl)-2-oxo-1,2-dihydro-1,8-naphthyridine-3-carboxylic acid chloride | COC1=C(CN2C(C(=CC3=CC=CN=C23)C(=O)Cl)=O)C=CC=C1 | C17H13ClN2O3
